US08440838B2
Production of 2,4-dimethyl-5-(3-trifluoromethyl-1H-1,2,4-triazol-1-yl)benzenesulfonyl Chloride
In a 25-ml eggplant flask provided with a magnetic stirrer were placed 2.5 g (22 mol) of chlorosulfonic acid and then 1.8 g (7.4 mmol) of 1,3-dimethyl-4-(3-trifluoromethyl-1H-1,2,4-triazol-1-yl)benzene. The mixture was stirred at 70° C. for 2 hours. The mixture was cooled to room temperature and then added onto ice in small portions. Thereto was added 30 ml of ethyl acetate to give rise to phase separation. The aqueous phase was extracted with 30 ml of ethyl acetate. The ethyl acetate phase was washed with a saturated aqueous sodium chloride solution and then dried over anhydrous sodium sulfate. Then, vacuum distillation was conducted to distill off ethyl acetate to obtain a title compound as 2.5 g of brown oil. Yield: 99%

reactant | chlorosulfonic acid | 22 mol, 2.5 g | ClS(=O)(=O)O | ClHO3S
reactant | 1,3-dimethyl-4-(3-trifluoromethyl-1H-1,2,4-triazol-1-yl)benzene | 7.4 mmol, 1.8 g | CC1=CC(=C(C=C1)N1N=C(N=C1)C(F)(F)F)C | C11H10F3N3
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | 2,4-dimethyl-5-(3-trifluoromethyl-1H-1,2,4-triazol-1-yl)benzenesulfonyl Chloride | Yield: 99% | CC1=C(C=C(C(=C1)C)N1N=C(N=C1)C(F)(F)F)S(=O)(=O)Cl | C11H9ClF3N3O2S
